US05756754
Alternatively, 2-Fluoro-4-methoxy-benzonitrile can be substituted for 4-methoxy-2-nitrobenzonitrile. 3-Amino-6-methoxy-1,2-benzisoxazole is prepared following substantially the procedure of Example 25a starting from 4-methoxy-2-[[(1-methylethylidene)amino]oxy]-benzonitrile.

reactant | 2-Fluoro-4-methoxy-benzonitrile | FC1=C(C#N)C=CC(=C1)OC | C8H6FNO
reactant | 4-methoxy-2-nitrobenzonitrile | COC1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C8H6N2O3
reactant | 4-methoxy-2-[[(1-methylethylidene)amino]oxy]-benzonitrile | COC1=CC(=C(C#N)C=C1)ON=C(C)C | C11H12N2O2
product | 3-Amino-6-methoxy-1,2-benzisoxazole | NC1=NOC2=C1C=CC(=C2)OC | C8H8N2O2
